US06908930B2
SYNTHESIS OF 3-{5-[4-(3-CHLORO-4-FLUORO-PHENYLAMINO)-6-OXO-6,7-DIHYDRO-PYRROLO[2,3-D]PYRIMIDIN-5-YLIDENEMETHYL]-4-METHYL-1H-PYRROL-2-YL}-PROPIONIC ACID (FORMULA 49)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (70 mg, 0.25 mmol), 3-(5-formyl-4-methyl-1H-pyrrol-2-yl)-propionic acid (54.4 mg, 0.3 mmol) and piperidine (3 drops) in ethanol (2 mL) was stirred at room temperature for 4 days. The reaction was concentrated, the residue was dissolved in water and acidified with 1N HCl to pH=2. The resultant solid was then washed with water, ethanol and dried to give 93.9 mg (85%) of the title compound. 1H NMR (360 MHz, DMSO-d6) δ 13.18 (br s, 1H, NH), 12.19 (br s, 1H, COOH), 11.61 (br s, 1H, NH), 9.09 (s, 1H), 8.27 (s, 1H), 7.70 (m, 1H), 7.39 (m, 1H), 7.30-7.35 (m, 2H), 6.07 (s, 1H), 2.90 (t, J=7.2 Hz, 2H, CH2), 2.60 (t, J=7.2 Hz, 2H, CH2), 2.16 (s, 3H, CH3). MS 442 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.25 mmol, 70 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 3-(5-formyl-4-methyl-1H-pyrrol-2-yl)-propionic acid | 0.3 mmol, 54.4 mg | C(=O)C1=C(C=C(N1)CCC(=O)O)C | C9H11NO3
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-{5-[4-(3-CHLORO-4-FLUORO-PHENYLAMINO)-6-OXO-6,7-DIHYDRO-PYRROLO[2,3-D]PYRIMIDIN-5-YLIDENEMETHYL]-4-METHYL-1H-PYRROL-2-YL}-PROPIONIC ACID | 93.9 mg, 85% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC2=C(C=C(N2)CCC(=O)O)C)=O | C21H17ClFN5O3
